* source BRIDGE
R_R1         N00493 0  1k TC=0,0 
V_V1         N00327 N00505  AC 0
+SIN 0 12 5 0 0 0
D_D1         0 N00327 D1N4148_1 
D_D2         N00327 N00493 D1N4148 
D_D3         0 N00505 D1N4148 
D_D4         N00505 N00493 D1N4148 
