* source BRIDGESUPPLY
R_R1         N01910 0  1k TC=0,0 
D_D3         0 N01015 D1N4148 
V_V1         N00825 N01015  AC 0
+SIN 0 12 5 0 0 0
D_D2         N00825 N00913 D1N4148 
D_D4         N01015 N00913 D1N4148 
D_D1         0 N00825 D1N4148_1 
C_C1         0 N00913  2200uf  TC=0,0 
X_U1         N00913 N01875 0 LM7805C
D_D5         N01875 N01910 MLED81
